US04410539
n-Butyl lithium (0.65 ml. of 1.55 M solution in hexane) was added dropwise to a stirred mixture of diisopropylamine (0.10 g.) and potassium t-butoxide (0.11 g.) in dry ether (10 ml.) at -78° C. under an atmosphere of dry nitrogen. The mixture was stirred at -78° C. for 45 minutes and then a solution of 3-methyl-6-(3-pyridylmethyl)benzo[b]thiophene (0.20 g.) in dry ether (5 ml.) was added. The solution was stirred at -78° C. for 45 minutes and then an excess of crushed solid carbon dioxide was added. When all the carbon dioxide had evaporated, water (5 ml.) was added and the mixture was shaken. The aqueous layer was then separated and washed with ether. It was then acidified with acetic acid and the solid was filtered off and dissolved in 2 N sodium hydroxide. The solution was decolorized by warming with charcoal and then filtered. Acidification of the filtrate with acetic acid gave a solid which was filtered off, washed with water and dried to give 3-methyl-6-(3-pyridylmethyl)-benzo[b]thiophene-2-carboxylic acid (0.10 g.), m.p. 250°-252° C.

reactant | n-Butyl lithium | 1.55 M, 0.65 ml | C(CCC)[Li]
reactant | diisopropylamine | 0.10 g | C(C)(C)NC(C)C | C6H15N
reactant | potassium t-butoxide | 0.11 g | CC(C)([O-])C.[K+]
reactant | 3-methyl-6-(3-pyridylmethyl)benzo[b]thiophene | 0.20 g | CC=1C2=C(SC1)C=C(C=C2)CC=2C=NC=CC2 | C15H13NS
reactant | carbon dioxide | C(=O)=O | CO2
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
product | 3-methyl-6-(3-pyridylmethyl)-benzo[b]thiophene-2-carboxylic acid | 0.10 g | CC=1C2=C(SC1C(=O)O)C=C(C=C2)CC=2C=NC=CC2 | C16H13NO2S
